US08686046B2
4-decylbenzaldehyde (6)
General procedure G was used to couple 1-decene (8.1 mmol) to 4-bromobenzaldehyde (5.4 mmol) to yield 1.25 g (5.1 mmol) of the title product after column chromatography. Spectral data was consistent with previously reported compounds.

reactant | 1-decene | 8.1 mmol | C=CCCCCCCCC | C10H20
reactant | 4-bromobenzaldehyde | 5.4 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4-decylbenzaldehyde | 5.1 mmol, 1.25 g | C(CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H26O
